US05075330
To a solution of 2-[(2,6-dichlorophenyl)amino]benzaldehyde oxime (4.0 g, 13.6 mmol) in glacial acetic acid (20 ml) is added sodium cyanoborohydride (2.05 g,33 mmol) in small portions over a period of two hours. The reaction mixture is diluted with ethyl acetate (200 ml) and neutralized with lN NaOH. The organic layer is collected and the solvent is evaporated. 2-[(2,6-Dichlorophenyl)amino]-N-hydroxybenzenemethanamine (3.5 g, 91%) is isolated as an oil by flash chromatography (silica, 3:1 chloroformethyl acetate). The compound is not further purified, but used directly in the next reaction.

reactant | 2-[(2,6-dichlorophenyl)amino]benzaldehyde oxime | 13.6 mmol, 4.0 g | ClC1=C(C(=CC=C1)Cl)NC1=C(C=NO)C=CC=C1 | C13H10Cl2N2O
reactant | sodium cyanoborohydride | 33 mmol, 2.05 g | C(#N)[BH3-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(2,6-Dichlorophenyl)amino]-N-hydroxybenzenemethanamine | 3.5 g, 91% | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CNO | C13H12Cl2N2O
